US09416132B2
75. 2-(trans-4-((3-(3-fluorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexyl)propan-2-ol (EX. 8-75)
To a solution of give 6-chloro-3-(3-fluorophenyl)imidazo[1,2-b]pyridazine (100 mg, 0.404 mmol) in NMP (2 mL) was added 2-(trans-4-aminocyclohexyl)propan-2-ol (95 mg, 0.6 mmol) and NaHCO3 (101.8 mg, 1.21 mmol). The mixture was purged with nitrogen and kept at 180° C. for 30 min with M.W. reaction. LCMS showed the reaction was complete. The mixture was partitioned between water (100 mL) and EtOAc (50 mL). The aqueous layer was extracted with EtOAc (50 mL*3). The combined extracts were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by prep. HPLC to give EX. 8-75 (10.6 mg, 7.2%) as a yellow solid.

reactant | 6-chloro-3-(3-fluorophenyl)imidazo[1,2-b]pyridazine | 0.404 mmol, 100 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)F | C12H7ClFN3
reactant | 2-(trans-4-aminocyclohexyl)propan-2-ol | 0.6 mmol, 95 mg | N[C@@H]1CC[C@H](CC1)C(C)(C)O | C9H19NO
reactant | NaHCO3 | 1.21 mmol, 101.8 mg | C(=O)(O)[O-].[Na+]
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 2-(trans-4-((3-(3-fluorophenyl)imidazo[1,2-b]pyridazin-6-yl)amino)cyclohexyl)propan-2-ol | FC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)N[C@@H]2CC[C@H](CC2)C(C)(C)O | C21H25FN4O
